US04831041
To a solution of 2,6-di(acetamido)benzyl acetate (0.97 g) in methanol (70 ml) was added an aqueous solution (1.8 ml) of potassium carbonate (608 mg) and the mixture was stirred at room temperature for 1 hour. After methanol was evaporated under reduced pressure, the resultant residue was subjected to column chromatography on silica gel (18 g) and eluted with a mixture of chloroform and methanol (20:1) to give 2,6-di(acetamido)benzyl alcohol (0.67 g).

reactant | 2,6-di(acetamido)benzyl acetate | 0.97 g | C(C)(=O)OCC1=C(C=CC=C1NC(C)=O)NC(C)=O | C13H16N2O4
reactant | potassium carbonate | 1.8 ml, 608 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 70 ml | CO | CH4O
product | 2,6-di(acetamido)benzyl alcohol | 0.67 g | C(C)(=O)NC1=C(CO)C(=CC=C1)NC(C)=O | C11H14N2O3
